US08258130B2
3-Ethyl-1H-pyrrolo[2,3-b]pyridine (0.91 g, 6.2 mmol) and KOtBu (1.39 g, 12.4 mmol) are dissolved in DMF (28 mL) and stirred for 2 h at rt. While vigorously sparging with nitrogen, NH2Cl (92 ml 0.15 M in ether) is added in portions. The reaction mixture is stirred at rt for 2 h. The mixture is cooled 0° C. and then quenched with Na2S2O3 (2.7 g) in water (50 mL). After standing at rt for 18 h, the mixture is concentrated, triturated in DCM and filtered. The filtrate is concentrated and chromatographed through silica gel eluting with 10% MeOH in DCM to afford 3-ethyl-pyrrolo[2,3-b]pyridin-1-yl-amine (380 mg). MS: 162 (M+H); 1H NMR (300 MHz, CDCl3): δ 8.32 (d, 1H), 7.90 (d, 1H), 7.04-7.13(m, 2H), 4.96 (broad s, 2H), 2.76 (q, 2H), 1.33 (t, 3H).

reactant | 3-Ethyl-1H-pyrrolo[2,3-b]pyridine | 6.2 mmol, 0.91 g | C(C)C1=CNC2=NC=CC=C21 | C9H10N2
reactant | KOtBu | 12.4 mmol, 1.39 g | CC(C)(C)[O-].[K+]
reactant | DMF | 28 mL | CN(C)C=O | C3H7NO
product | 3-ethyl-pyrrolo[2,3-b]pyridin-1-yl-amine | 380 mg | C(C)C1=CN(C2=NC=CC=C21)N | C9H11N3
